US08048887B2
2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)-6-nitrobenzofuran-3-carboxamide
Prepared by the coupling of 2-(4-fluorophenyl)-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)-6-nitrobenzofuran-3-carboxylic acid with methylamine hydrochloride under the conditions as described. LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=4 ml/min, Column: XTERRA® MS 7 um, C18, 3.0×50 mm; (ES+) m/z (M+H)+=564.36, HPLC Rt=1.768 min.

reactant | 2-(4-fluorophenyl)-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)-6-nitrobenzofuran-3-carboxylic acid | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)O)C=C(C(=C2)[N+](=O)[O-])C2=C(C=CC(=C2)C(NC2(CC2)C2=CC=CC=C2)=O)C | C32H23FN2O6
reactant | methylamine hydrochloride | Cl.CN
solvent | MeOH | CO | CH4O
product | 2-(4-Fluorophenyl)-N-methyl-5-(2-methyl-5-(1-phenylcyclopropylcarbamoyl)phenyl)-6-nitrobenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)[N+](=O)[O-])C2=C(C=CC(=C2)C(NC2(CC2)C2=CC=CC=C2)=O)C | C33H26FN3O5
